* DDR4 PDN Base Netlist for GA Optimization
V1 IN 0 12
R2 N001 0 60k
XU1 NC_01 VTT IN 0 MP_02 IN 0 NC_03 MP_04 VDDQ N004 VDDQ MP_05 MP_06 MP_07 MP_08 MP_09 VTTR NC_10 MP_11 IN MP_12 MP_13 MP_14 MP_15 N002 N003 N001 LTM4632
C4 IN 0 4.7u x2 V=16 Irms=0 Rser=5m Lser=0
C3 IN 0 47u x2 V=25 Irms=0 Rser=5m Lser=0
C6 VDDQ N001 10p
C2 N003 0 .0001u
C9 VTTR 0 10n
Rload3 VTTR 0 75

* Bulk Capacitors (Fixed)
C7 VDDQ 0 100u V=25 Irms=0 Rser=5m Lser=0.87n
C8 VTT 0 100u V=25 Irms=0 Rser=5m Lser=0.87n

* Workload Current Sources
I1 VDDQ 0 PWL file="dummy.pwl"
I2 VTT 0 PWL file="dummy_vtt.pwl"

* AC Sources for Impedance Measurement (usually 0 in transient)
Iac_vddq VDDQ 0 AC 0
Iac_vtt VTT 0 AC 0

* Decoupling Network Placeholders
;DECOUPLING_NETWORK_VDDQ
;DECOUPLING_NETWORK_VTT

.options plotwinsize=0
.options numdgt=7
.options method=gear
.options cshunt=1e-15
.options reltol=0.005
.options trtol=7
.options abstol=1e-10
.tran .8m startup
.lib LTM4632.sub
.backanno
.end
